US04886794
α,α-bis-(4-Fluorophenyl)-1-(phenylmethyl)-4-piperidinemethanol
To magnesium turnings (6.08 g, 0.25 mole) and an iodine crystal in 600 ml of dry tetrahydrofuran (THF) (distilled from lithium aluminum hydride) and under an atmosphere of nitrogen was added dropwise a solution of p-bromofluorobenzene in 125 ml of THF. The temperature of the reaction mixture was kept below 10° C. by cooling in an ice-methanol bath. The mixture was stirred at room temperature for 1.5 hr. A solution of 1-(phenylmethyl)-4-piperidinecarboxylic acid ethyl ester (24.7 g, 0.10 mole) in THF was added, and the mixture was stirred at room temperature for 17 hr. The reaction mixture was poured into an icy, aqueous solution of ammonium chloride, and the resulting solution was extracted with methylene chloride. The solution was extracted with dilute sodium hydroxide and was dried (magnesium sulfate). The solvent was removed in vacuo to give an oil. This was crystallized from ether-hexane to give 19.87 g (51%) of title compound, m.p. 113°-115° C.

reactant | magnesium | 0.25 mole, 6.08 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | p-bromofluorobenzene | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 1-(phenylmethyl)-4-piperidinecarboxylic acid ethyl ester | 0.10 mole, 24.7 g | C(C)OC(=O)C1CCN(CC1)CC1=CC=CC=C1 | C15H21NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | THF | 125 ml | O1CCCC1 | C4H8O
product | α,α-bis-(4-Fluorophenyl)-1-(phenylmethyl)-4-piperidinemethanol | 19.87 g, 51% | FC1=CC=C(C=C1)C(O)(C1CCN(CC1)CC1=CC=CC=C1)C1=CC=C(C=C1)F | C25H25F2NO
